US09085555B2
1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-(1H-tetrazol-5-ylmethoxy)-1H-indole-3-carboxylic acid amide
A solution of 1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-hydroxy-1H-indole-3-carboxylic acid amide Example 578 (148 mg, 0.283 mmol) in DMSO (3 mL) was treated with Cs2CO3 (0.28 g, 0.85 mmol). The mixture was stirred at RT for 5 min, followed by addition of 5-(chloromethyl)-1H-tetrazole (35 mg, 0.098 mmol) and stirring at RT for 36 h. The reaction mixture was neutralised by addition of 1N HCl. Water was then added to the mixture to form a precipitate. The solid material was filtered off, washed with water, and dried in vacuo to afford the title compound as a solid. MS (LC/MS): 573 [M+H]+; tR (HPLC conditions k): 2.92 min.

reactant | 1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-hydroxy-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)O)C(=O)N)=O)C=CC1)F | C23H21ClF2N4O4
reactant | Cs2CO3 | 0.85 mmol, 0.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-(chloromethyl)-1H-tetrazole | 0.098 mmol, 35 mg | ClCC1=NN=NN1 | C2H3ClN4
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-(1H-tetrazol-5-ylmethoxy)-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)OCC2=NN=NN2)C(=O)N)=O)C=CC1)F | C25H23ClF2N8O4
